US04921782
23 g 3-[3-(4-aminophenoxy)-propyl]-6-methyl-7-chloro-1H-pyrazolo[5,1-c]-1,2,4-triazole and 10.8 g acrylic acid are dissolved in dimethyl acetamide heated to 85° C. and are stirred at that temperature for 1 hour. The reaction mixture is then poured onto 300 g of an ice/water mixture, the deposit precipitated is filtered off under suction and recrystallized from ethyl acetate. 3-[3-(4-carboxyethylaminophenoxy)-propyl]-6-methyl-7-chloro-1H-pyrazolo-[5,1-c]-1,2,4-triazole melting at 151° to 153° C. is obtained in a yield of 61%.

reactant | 3-[3-(4-aminophenoxy)-propyl]-6-methyl-7-chloro-1H-pyrazolo[5,1-c]-1,2,4-triazole | 23 g | NC1=CC=C(OCCCC=2N3C(NN2)=C(C(=N3)C)Cl)C=C1 | C14H16ClN5O
reactant | acrylic acid | 10.8 g | C(C=C)(=O)O | C3H4O2
solvent | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
product | 3-[3-(4-carboxyethylaminophenoxy)-propyl]-6-methyl-7-chloro-1H-pyrazolo-[5,1-c]-1,2,4-triazole | yield of 61% | C(=O)(O)CCNC1=CC=C(OCCCC=2N3C(NN2)=C(C(=N3)C)Cl)C=C1 | C17H20ClN5O3
